US09376443B2
2-Bromomethyl-6-(isopropyloxyethoxymethyl)pyridine
Prepared from 2,6-bis(bromomethyl)pyridine and 2-(isopropyloxy)ethanol by the alkylation method described for the final step of Example 32 to give the title compound (28%); NMR δH (400 MHz, CDCl3) 7.69 (1H, t, J 7.5 Hz), 7.43 (1H, d, J 7.5 Hz), 7.33 (1H, d, J 7.5 Hz), 4.69 (2H, s), 4.53 (2H, s), 3.73-3.69 (2H, m), 3.68-3.58 (3H, m), 1.18 (6H, d, J 6.0 Hz); (M+H)+ 288, 290.

reactant | 2,6-bis(bromomethyl)pyridine | BrCC1=NC(=CC=C1)CBr | C7H7Br2N
reactant | 2-(isopropyloxy)ethanol | C(C)(C)OCCO | C5H12O2
product | 2-Bromomethyl-6-(isopropyloxyethoxymethyl)pyridine | 28% | BrCC1=NC(=CC=C1)COCCOC(C)C | C12H18BrNO2
